data/core_train_final.csv
"[CH3:24][CH2:25][CH2:26][CH2:27][O:28][C:29](=[O:30])[CH:31]=[CH2:32].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][C:6](=[O:7])[CH:8][CH2:9][CH:10]([CH2:11][C:12]([CH3:13])([CH3:14])[C:15]#[N:16])[C:17](=[O:18])[O:19][CH2:20][CH2:21][CH2:22][CH3:23]>>[CH3:24][CH2:25][CH2:26][CH2:27][O:28][C:29](=[O:30])[CH:31][CH2:32][CH:8]([CH2:9][CH:10]([CH2:11][C:12]([CH3:13])([CH3:14])[C:15]#[N:16])[C:17](=[O:18])[O:19][CH2:20][CH2:21][CH2:22][CH3:23])[C:6](=[O:7])[O:5][CH2:4][CH2:3][CH2:2][CH3:1] 8-32,8;31,32-8,32; 32,31-31;",Room Temperature,Propagation,addition
"[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])[CH2:10][CH2:11][CH2:12][CH3:13].[CH3:26][O:25][C:24](=[O:27])[CH:23]1[CH2:22][C:20]2([CH:19]([N:18]1[C:15](=[O:14])[O:16][CH3:17])[N:28]([C:38]3=[C:39]2[CH:40]=[CH:41][CH:42]=[CH:43]3)[S:29](=[O:36])(=[O:37])[C:30]4=[CH:31][CH:32]=[CH:33][CH:34]=[CH:35]4)[Br:21]>>[CH3:1][CH2:2][CH2:3][CH2:4][Sn:5]([CH2:6][CH2:7][CH2:8][CH3:9])([CH2:10][CH2:11][CH2:12][CH3:13])[Br:21].[CH3:26][O:25][C:24](=[O:27])[CH:23]1[CH2:22][C:20]2[CH:19]([N:18]1[C:15](=[O:14])[O:16][CH3:17])[N:28]([C:38]3=[C:39]2[CH:40]=[CH:41][CH:42]=[CH:43]3)[S:29](=[O:36])(=[O:37])[C:30]4=[CH:31][CH:32]=[CH:33][CH:34]=[CH:35]4 20,21-5,21; 20,21-20; 5-5,21",Room Temperature,Propagation,abstraction
"[CH3:17][C:16]1=[CH:15][C:11]([CH2:10][CH2:9][CH:8]1[O:7][C:6]2=[C:18][C:19](=[CH:22][C:4](=[CH:5]2)[CH:2]([CH3:1])[CH3:3])[CH:20]=[CH2:21])([CH3:14])[CH2:12][OH:13]>>[CH3:1][CH:2]([CH3:3])[C:4]1=[CH:5][C:6]2=[C:18]([C:19](=[CH:22]1)[CH:20]=[CH2:21])[C:16]3([CH:15][C:11]([CH2:10][CH2:9][CH:8]3[O:7]2)([CH3:14])[CH2:12][OH:13])[CH3:17] 18-18,16; 15,16-15; 15,16-18,16",Room Temperature,Propagation,addition
"C1CCCCC1.[Br:20][Br:21].[Ar]>>[Ar].C1CCCCC1.[Br:20].[Br:21] 20,21-20;20,21-21",Heat,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC=C1)O.CO[O:10]>>[H:20][O:10]OC.C1=CC(=C(C=C1)[O:21])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[O:8])[CH2:3][O:4][O:5][N:6]=[O:7]>>[CH3:1][C:2](=[O:8])[CH2:3][O:4].[N:6](=[O:7])[O:5] 4,5-4; 4,5-5",Room Temperature,Initiation,homolyze
"[H:13][C:12](=[CH2:11])[H:14].[H:7][C:6]([H:8])[CH2:5][C:4]([H:9])([H:10])[CH2:3][O:2][CH3:1]>>[H:13][C:12]([H:14])[CH2:11][C:6]([H:7])([H:8])[CH2:5][C:4]([H:9])([H:10])[CH2:3][O:2][CH3:1] 6-6,11;11,12-6,11;11,12-12",Room Temperature,Propagation,addition
"CCOC(=O)[C:21]12C[C:20]1(CCC3=CC=CC=C23)[O:10]>>CCOC(=O)[C:21]1C[C:20](=[O:10])CCC2=CC=CC=C21 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:1][C:2]([H:3])[H:4].[O:5][O:6]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6] 5-5,2; 2-5,2",Room Temperature,Termination,recombine
"[O:1][O:2][O:3].[F:4]>>[O:1][O:2].[O:3][F:4] 4-4,3; 2,3-4,3; 2,3-2",Room Temperature,Propagation,abstraction
"C1C=C[CH:10]1.[Br:20][Br:21]>>C1C=C[CH:10]1[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:10]C1=CCCCC1.[Br:20][Br:21]>>C1CCC(=CC1)[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:11][O:10][C:9]1[CH:12]=[C:5]([CH:6]=[CH:7][C:8]1=[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1]>>[CH3:11][O:10][C:9]1=[CH:12][C:5]([CH:6]=[CH:7][C:8]1=[O:13])[CH:4]=[CH:3][C:2](=[O:14])[O-:1] 9-9,12; 5,12-9,12; 5,12-5",Room Temperature,Propagation,resonance
"C[CH:10]C(=C)C.[Br:20][Br:21]>>C[CH:10](C(=C)C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[Sn:20](CCCC)CCCC.C1CC[CH:11](CC1)[Br:10]>>CCCC[Sn:20](CCCC)(CCCC)[Br:10].C1CC[CH:11]CC1 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[H:4][C:2]([CH3:1])([CH3:3])[CH3:5].[CH3:6][C:7]([CH3:8])([CH3:10])[O:9]>>[H:4][O:9][C:7]([CH3:6])([CH3:8])[CH3:10].[CH3:1][C:2]([CH3:3])[CH3:5] 9-9,4;2,4-4,9;2,4-2",Room Temperature,Propagation,abstraction
"[B-:2]([CH2:10]CC)(CCC)(CCC)[O+:1][O]>>[B-:2](CCC)(CCC)=[O+:1][O].[CH2:10]CC 2,10-2,1; 1-1,2",Room Temperature,Propagation,retroaddition
"[H:5][C:4]1[CH2:6][CH2:7][CH:2]([CH2:3]1)[Cl:1].[Cl:8]>>[H:5][C:4]1([CH2:6][CH2:7][CH:2]([CH2:3]1)[Cl:1])[Cl:8] 4-4,8;8-4,8",Room Temperature,Termination,recombine
"CC1CCCC1.[Br:20][Br:21].[He]>>[He].CC1CCCC1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH3:1][CH:2]([CH3:3])[C:4]1=[CH:5][C:6]2=[C:18]([C:19](=[CH:22]1)[CH:20]=[CH2:21])[C:16]3([CH:15][C:11]([CH2:10][CH2:9][CH:8]3[O:7]2)([CH3:14])[CH2:12][OH:13])[CH3:17]>>[CH3:1][CH:2]([CH3:3])[C:4]1=[CH:5][C:6]2=[C:18]3[C:19](=[CH:22]1)[CH:20][CH2:21][CH:15]4[C:16]3([CH:8]([O:7]2)[CH2:9][CH2:10][C:11]4([CH3:14])[CH2:12][OH:13])[CH3:17] 15-15,21; 20,21-15,21; 20,21-20",Room Temperature,Propagation,addition
"CC(C)CCC(C)(C)[CH2:10].[Cl:20][Cl:21]>>CC(C)CCC(C)(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:3]([CH3:7])([CH2:4][CH3:5])[CH:2]=[CH2:1].[Cl:9]>>[H:6][Cl:9].[CH3:5][CH2:4][C:3]([CH3:7])[CH:2]=[CH2:1] 9-6,9;3,6-6,9;3,6-3",Room Temperature,Propagation,abstraction
